US07030118B2
(±)-2-{1-[(3-Amino-propyl)-(4-methyl-benzoyl)-amino]-propyl}-3-benzyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester, hydrochloride salt
Anhydrous HCl in dioxane (4 M, 0.20 ml, 0.80 mmol) was added to 3-benzyl-2-{1-[(3-tert-butoxycarbonylamino-propyl)-(4-methyl-benzoyl)-amino]-propyl}-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester (0.003 g, 0.004 mmol) and the reaction mixture was stirred at 0° C. for 4 h. The reaction mixture was concentrated in vacuo, dissolved in aqueous CH3CN and lyophilized to afford the title compound (0.0021 g, 72%) as a white solid: MS (ESI+) 516 (M++H); HRMS (ESI+) calculated: 516.2611 (M++H), found: 516.2591 (M++H).

reactant | HCl | Cl | ClH
reactant | dioxane | 0.80 mmol, 4 M, 0.20 ml | O1CCOCC1 | C4H8O2
reactant | 3-benzyl-2-{1-[(3-tert-butoxycarbonylamino-propyl)-(4-methyl-benzoyl)-amino]-propyl}-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester | 0.004 mmol, 0.003 g | COC(=O)C=1C=CN2N=C(N(C(C21)=O)CC2=CC=CC=C2)C(CC)N(C(C2=CC=C(C=C2)C)=O)CCCNC(=O)OC(C)(C)C | C34H41N5O6
product | (±)-2-{1-[(3-Amino-propyl)-(4-methyl-benzoyl)-amino]-propyl}-3-benzyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-5-carboxylic acid methyl ester, hydrochloride salt | 0.0021 g, 72% | Cl.COC(=O)C=1C=CN2N=C(N(C(C21)=O)CC2=CC=CC=C2)C(CC)N(C(C2=CC=C(C=C2)C)=O)CCCN | InChI=1S/C29H33N5O4.ClH/c1-4-24(32(17-8-16-30)27(35)22-13-11-20(2)12-14-22)26-31-34-18-15-23(29(37)38-3)25(34)28(36)33(26)19-21-9-6-5-7-10-21;/h5-7,9-15,18,24H,4,8,16-17,19,30H2,1-3H3;1H
